US08865682B2
To a suspension of methyl 1-{4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzyl}piperidine-4-carboxylate (50 mg, 0.10 mmol) in MeOH (5 mL), was added 1M NaOH (1 mL). The mixture was heated in 50° C. bath for 1 hour, poured into 50 mL of water and neutralized with 0.5M HCl to pH 7. The precipitates were filtered, washed with water, and dried in vacuo to give 1-{4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzyl}piperidine-4-carboxylic acid as a yellow solid. Yield: 9 mg, 19%.

reactant | methyl 1-{4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzyl}piperidine-4-carboxylate | 0.10 mmol, 50 mg | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(CN2CCC(CC2)C(=O)OC)C=C1 | C28H28F2N2O4
reactant | NaOH | 1M, 1 mL | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
reactant | HCl | 0.5M | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 1-{4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzyl}piperidine-4-carboxylic acid | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(CN2CCC(CC2)C(=O)O)C=C1 | C27H26F2N2O4
